* E:\Uczelnia\Semestr5\IO\Lab3\z1_current.asc
R1 N001 N002 14k
R3 N004 N003 470
V1 N001 0 24
XU1 N005 N003 +Vcc -Vee N004 TL061
V2 +Vcc 0 12
V3 0 -Vee 12
R2 N002 N005 {Rj}
R5 N005 0 {Ri}
I1 N004 0 {OUT}
* TL061 OPERATIONAL AMPLIFIER "MACROMODEL" SUBCIRCUIT
* CREATED USING PARTS RELEASE 4.01 ON 06/28/89 AT 10:42
* (REV N/A)      SUPPLY VOLTAGE: +/-15V
* CONNECTIONS:   NON-INVERTING INPUT
*                | INVERTING INPUT
*                | | POSITIVE POWER SUPPLY
*                | | | NEGATIVE POWER SUPPLY
*                | | | | OUTPUT
*                | | | | |
.SUBCKT TL061    1 2 3 4 5
*
C1   11 12 3.498E-12
C2    6  7 15.00E-12
DC    5 53 DX
DE   54  5 DX
DLP  90 91 DX
DLN  92 90 DX
DP    4  3 DX
EGND 99  0 POLY(2) (3,0) (4,0) 0 .5 .5
FB    7 99 POLY(5) VB VC VE VLP VLN 0 318.3E3 -300E3 300E3 300E3 -300E3
GA    6  0 11 12 94.26E-6
GCM 0  6 10 99 1.607E-9
ISS   3 10 DC 52.50E-6
HLIM 90  0 VLIM 1K
J1   11  2 10 JX
J2   12  1 10 JX
R2    6  9 100.0E3
RD1   4 11 10.61E3
RD2   4 12 10.61E3
RO1   8  5 200
RO2   7 99 200
RP    3  4 150.0E3
RSS  10 99 3.810E6
VB    9  0 DC 0
VC    3 53 DC 2.200
VE   54  4 DC 2.200
VLIM  7  8 DC 0
VLP  91  0 DC 15
VLN   0 92 DC 15
.MODEL DX D(IS=800.0E-18)
.MODEL JX PJF(IS=15.00E-12 BETA=100.5E-6 VTO=-1)
.ENDS
.param V=99
.op
.param R=10k
.param Ri=R*(V/100)
.param Rj=R*(1-(V/100))
.step param OUT 0 20m 1m
.backanno
.end
